US07884107B2
N-bromosuccinimide (590 mg, 3.31 mmol) was added to 3-methoxymethyl-5-methyisoxazole (351 mg, 2.76 mmol) in DMF (3.5 mL) at room temperature under nitrogen. The reaction was heated at 60° C. for 15 h then allowed to cool to room temperature. Ether (50 mL) was added to the reaction mixture, then washed with water (3×10 mL), saturated aqueous sodium hydrogen carbonate (10 mL), and brine (10 mL). The organic layer was dried over magnesium sulfate, filtered, and evaporated to provide 526 mg (92% yield) of 4-bromo-3-methoxymethyl-5-methylisoxazole as a clear liquid which was used in the next step without further purification: 1H NMR (300 MHz, CDCl3) δ ppm 4.50 (s, 2H), 3.41 (s, 3H), 2.43 (s, 3H).

reactant | N-bromosuccinimide | 3.31 mmol, 590 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-methoxymethyl-5-methyisoxazole | 2.76 mmol, 351 mg | COCC1=NOC(=C1)C | C6H9NO2
reactant | Ether | 50 mL | CCOCC | C4H10O
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 4-bromo-3-methoxymethyl-5-methylisoxazole | 526 mg, 92% yield | BrC=1C(=NOC1C)COC | C6H8BrNO2
